US07064142B2
4-fluorophenyl 1,5-naphtyridin-3-yl ketone (108 mg) was dissolved in anhydrous toluene (5 mL), and the solution was cooled at −30° C. Titanium chloride (0.08 mL) was dropwise added to the solution under nitrogen, and ammonia gas was passed through the mixture for about 20 minutes. Then the mixture was warmed up to room temperature and stirred overnight. Saturated potassium carbonate aqueous solution (1 mL) was added to the reaction mixture, and the mixture was stirred for an additional 1 hour. The organic layer was separated, washed with water and saturated saline once respectively and dried over anhydrous sodium sulfate. Then the solvent was evaporated in vacuo to give crude product of (4-fluorophenyl)(1,5-naphtyridin-3-yl)-methanimine (103 mg). The crude product was dissolved in anhydrous toluene (2 mL), and trimethylsilylcyanide (0.21 mL) and 1M tetrabutylammonium fluoride-tetrahydrofuran solution (0.01 mL) were added to the solution. The mixture was stirred at room temperature for 6 days. The reaction mixture was washed with saturated sodium hydrogen carbonate aqueous solution and saturated saline once respectively and then dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to give crude product of 2-amino-2-(4-fluorophenyl)-2-(1,5-naphtyridin-3-yl)-acetonitrile. The crude product was dissolved in anhydrous toluene (2 mL). 1M Diisobutylalumium hydride-toluene solution (1.85 mL) was dropwise added to the solution at −78° C., and mixture was warmed up to 0° C. for 30 minutes. Sodium sulfate decahydrate was added to the reaction mixture, and the mixture was stirred for one hour. Moreover, anhydrous magnesium sulfate was added to the reaction mixture, and the mixture was stirred for one hour. Then insolubles were removed by filtration. The filtrate was concentrated in vacuo, and then the obtained residue was purified by silica gel column chromatography (C-300; chloroform:methanol=20:1→10:1→2:1) to give the title compound (17 mg).

reactant | 4-fluorophenyl 1,5-naphtyridin-3-yl ketone | 108 mg | N1=CC(=CC2=NC=CC=C12)C(=O)C1=CC=C(C=C1)F | C15H9FN2O
reactant | ammonia | N | H3N
reactant | potassium carbonate | 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Titanium chloride | 0.08 mL | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | (4-fluorophenyl)(1,5-naphtyridin-3-yl)-methanimine | 103 mg | FC1=CC=C(C=C1)C(=N)C=1C=NC2=CC=CN=C2C1 | C15H10FN3
